US05246948
Synthesis of 4-[3-(2-carboxybenzoylamino)propylthio]pyridine
A solution of 340 mg (2.02 mmol) of 4-(3-aminopropylthio)pyridine and 738 mg (4.98 mmol) of anhydrous phthalic acid in 5 ml of methylene chloride was stirred at room temperature for 30 minutes. The resulting crystals were filtered and dried to obtain 590 mg of the desired compound (92.3%, colorless powder), mp: 151.0°-153.3° C.

reactant | 4-(3-aminopropylthio)pyridine | 2.02 mmol, 340 mg | NCCCSC1=CC=NC=C1 | C8H12N2S
reactant | phthalic acid | 4.98 mmol, 738 mg | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-carboxybenzoylamino)propylthio]pyridine | 590 mg, 92.3% | C(=O)(O)C1=C(C(=O)NCCCSC2=CC=NC=C2)C=CC=C1 | C16H16N2O3S
